US08404719B2
(8aS)-2-{[3-({4-[bis(4-fluorophenyl)methyl]piperazin-1-yl}carbonyl)phenyl]sulfonyl}octahydropyrrolo[1,2-α]pyrazine
To 3-(chlorosulfonyl)benzoyl chloride (0.474 g, 1.981 mmol) in anhydrous dichloromethane (40 mL) was added 1-(bis(4-fluorophenyl)methyl)piperazine (0.571 g, 1.981 mmol) in dichloromethane (4 mL) slowly over 10 minutes at room temperature. Then sodium carbonate (0.64 g, 6 mmol) was added. The mixture was stirred at room temperature overnight. Then (S)-octahydropyrrolo[1,2-α]pyrazine (0.250 g, 1.981 mmol) was added. The mixture was stirred at reflux for 20 minutes and then at room temperature for 3 days. Methanol (5 mL) was added, the mixture was stirred for 20 minutes, then filtered, and concentrated. The residue was purified by chromatography on silica gel (ethyl acetate/methanol=20:1) to give the titled compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.07 (m, 1H), 1.55 (m, 2H), 1.71 (m, 1H), 1.95 (m, 4H), 2.08 (m, 1H), 2.28 (m, 3H), 2.39 (m, 3H), 2.85 (m, 1H), 2.92 (m, 1H), 3.57 (m, 2H), 3.74 (m, 2H), 4.45 (s, 1H), 7.13 (m, 4H), 7.45 (m, 4H), 7.66 (s, 1H), 7.70 (m, 2H), 7.80 (m, 1H); MS (ESI) m/z 581 (M+H)+.

reactant | 3-(chlorosulfonyl)benzoyl chloride | 1.981 mmol, 0.474 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
reactant | 1-(bis(4-fluorophenyl)methyl)piperazine | 1.981 mmol, 0.571 g | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | sodium carbonate | 6 mmol, 0.64 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | (S)-octahydropyrrolo[1,2-α]pyrazine | 1.981 mmol, 0.250 g | C1[C@H]2N(CCN1)CCC2 | C7H14N2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | Methanol | 5 mL | CO | CH4O
product | (8aS)-2-{[3-({4-[bis(4-fluorophenyl)methyl]piperazin-1-yl}carbonyl)phenyl]sulfonyl}octahydropyrrolo[1,2-α]pyrazine | FC1=CC=C(C=C1)C(N1CCN(CC1)C(=O)C=1C=C(C=CC1)S(=O)(=O)N1C[C@H]2N(CC1)CCC2)C2=CC=C(C=C2)F | C31H34F2N4O3S
